US09029531B2
Step A: methyl 2-(6-chloropyridin-3-yl)acetate
To a solution of 2-(6-chloropyridin-3-yl)acetic acid (2 g, 117 mmol) in methanol (40 ml) was added SOCl2 (1.38 g, 117 mmol). The reaction mixture was concentrated after two hours to give the desired product. LC-MS: m/z (M+H)=186.6

reactant | 2-(6-chloropyridin-3-yl)acetic acid | 117 mmol, 2 g | ClC1=CC=C(C=N1)CC(=O)O | C7H6ClNO2
reactant | SOCl2 | 117 mmol, 1.38 g | O=S(Cl)Cl | Cl2OS
reactant | methanol | 40 ml | CO | CH4O
product | methyl 2-(6-chloropyridin-3-yl)acetate | ClC1=CC=C(C=N1)CC(=O)OC | C8H8ClNO2
